US05965740
To a mixture of 1.24 g (5.3 mmol) of 5-(2-hydroxymethyl-α-methoxybenzyl)-3-methylthiazole and 10 ml of acetonitrile was added 1.67 g (6.36 mmol) of triphenylphosphine and 1.23 ml (12.7 mmol) of carbon tetrachloride under ice-cooling and stirred at room temperature overnight. After completion of the reaction, the residue obtained by concentration under reduced pressure was purified by column chromatography on silica gel (ethyl acetate/n-hexane) to give 5-(2-chloromethyl-α-methoxybenzyl)-3-methylthiazole (1.03 g, 77.2%) as colorless oil.

reactant | 5-(2-hydroxymethyl-α-methoxybenzyl)-3-methylthiazole | 5.3 mmol, 1.24 g | OCC1=C(C(OC)C2=CN(CS2)C)C=CC=C1 | C13H17NO2S
reactant | triphenylphosphine | 6.36 mmol, 1.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 12.7 mmol, 1.23 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-(2-chloromethyl-α-methoxybenzyl)-3-methylthiazole | 1.03 g, 77.2% | ClCC1=C(C(OC)C2=CN(CS2)C)C=CC=C1 | C13H16ClNOS
